US08431717B2
Second synthetic route disclosed in the same patent is following, as starting material was used 2,3-dihydro-1H-indene-2-carboxylic acid methyl ester, which was prepared by methylation of 2,3-dihydro-1H-indene-2-carboxylic acid in the presence of sulphuric acid. The 2,3-dihydro-1H-indene-2-carboxylic acid methyl ester was reacted with N-isopropylcyclohexylamide and ethylbromide yielding 2,3-dihydro-2-ethyl-1H-indene-2-carboxylic acid, then thionyl chloride was added and 2,3-dihydro-2-ethyl-1H-indene-2-carboxylic acid chloride was obtained. In the next step ethoxymagnesiummalonic acid ethyl ester in dry ether was added to 2,3-dihydro-2-ethyl-1H-indene-2-carboxylic acid chloride and reaction mixture was treated with sulphuric acid, and 1-(2,3-dihydro-2-ethyl-1H-inden-2-yl)ethanone was obtained, then the intermediate was stirred in methylene chloride and bromine was added by giving a new intermediate 2-bromo-1-(2,3-dihydro-2-methyl-1H-inden-2-yl)ethanone, to which was thereafter added formamide and hydrochloric acid yielding crude product of 5-(2-ethyl-2,3-dihydro-1H-inden-2-yl)-1H-imidazole. The last step involved hydrogenation of the crude product of 5-(2-ethyl-2,3-dihydro-1H-inden-2-yl)-1H-imidazole with 10% palladium on carbon.

reactant | 2,3-dihydro-1H-indene-2-carboxylic acid methyl ester | COC(=O)C1CC2=CC=CC=C2C1 | C11H12O2
reactant | 2,3-dihydro-1H-indene-2-carboxylic acid | C1C(CC2=CC=CC=C12)C(=O)O | C10H10O2
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
reactant | N-isopropylcyclohexylamide | C(C)(C)[N-]C1CCCCC1
reactant | ethylbromide | C(C)Br | C2H5Br
product | 2,3-dihydro-2-ethyl-1H-indene-2-carboxylic acid | C(C)C1(CC2=CC=CC=C2C1)C(=O)O | C12H14O2
